US06939885B2
Synthesis of 4-tert-Butyl-N-[4,5-difluoro-2-(pyridine-4-carbonyl)-phenyl]-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 117 mg of (2-Amino-4,5-difluoro-phenyl)-pyridin-4-yl-methanone and 116 mg of 4-tert-butyl-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 1.28 (s, 9H), 7.17 (t, 1H, J=8.4 Hz), 7.45 (d, 2H, J=8.4 Hz), 7.54 (d, 2H, J=4.4 Hz), 7.64 (dd, 1H, J=11.6 Hz, 6.8 Hz), 7.72 (d, 2H, J=8.4 Hz), 8.85 (d, 2H, J=5.2 Hz), 10.42 (s, 1H). MS: m/z 431.1 (M++1).

reactant | (2-Amino-4,5-difluoro-phenyl)-pyridin-4-yl-methanone | 117 mg | NC1=C(C=C(C(=C1)F)F)C(=O)C1=CC=NC=C1 | C12H8F2N2O
reactant | 4-tert-butyl-benzenesulfonyl chloride | 116 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 4-tert-Butyl-N-[4,5-difluoro-2-(pyridine-4-carbonyl)-phenyl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C(=C1)F)F)C(=O)C1=CC=NC=C1 | C22H20F2N2O3S
